US07977344B2
N2-(2-Cyclopropylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-Purine-2,6-diamine
To a suspension of 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (3.49 g) in ethylene glycol (17 ml) at room temperature was added cyclopropylethylamine (4.69 g). The reaction mixture was heated to 120° C. with reflux condenser overnight, resulting in a yellow/brown solution. The reaction was allowed to cool, taken up in ethyl acetate (100 ml) and washed with water (2×100 ml). The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo to give a dark brown gum (4.17 g)

reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 3.49 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | cyclopropylethylamine | 4.69 g | C1(CC1)CCN | C5H11N
solvent | ethylene glycol | 17 ml | C(CO)O | C2H6O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N2-(2-Cyclopropylethyl)-9-(tetrahydro-2H-pyran-2-yl)-9H-Purine-2,6-diamine | 4.17 g | C1(CC1)CCNC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H22N6O
